US07439232B2
To a solution of 4-cyclopropylbromobenzene (synthesized as described in WO0268439; 2.5 g, 0.0127 mol) in tetrahydrofuran (20 ml), a 1.58 mol/L n-butyllithium/n-hexane solution (8.4 ml, 0.0133 mol) was added dropwise at −70° C. over 8 minutes. After stirring at −70° C. for 1 hour, a tetrahydrofuran solution of 4-formyl-3-[2-(trimethylsilyl)ethoxymethoxy]pyridine (4.2 g, 0.0165 mol) was added over 5 minutes and stirred at −70° C. for 2.5 hours. After addition of saturated aqueous ammonium chloride, the reaction mixture was warmed to room temperature and extracted twice with ethyl acetate. The organic layers were dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=50:50) to give (4-cyclopropylphenyl)-[3-[2-(trimethylsilyl)ethoxymethoxy]pyridin-4-yl]-methanol (2.5 g, 53%) as a brown solid.

reactant | 4-cyclopropylbromobenzene | 0.0127 mol, 2.5 g | C1(CC1)C1=CC=C(C=C1)Br | C9H9Br
reactant | n-butyllithium n-hexane | 0.0133 mol, 1.58 mol/L, 8.4 ml | C(CCC)[Li].CCCCCC
reactant | 4-formyl-3-[2-(trimethylsilyl)ethoxymethoxy]pyridine | 0.0165 mol, 4.2 g | C(=O)C1=C(C=NC=C1)OCOCC[Si](C)(C)C | C12H19NO3Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (4-cyclopropylphenyl)-[3-[2-(trimethylsilyl)ethoxymethoxy]pyridin-4-yl]-methanol | 2.5 g, 53% | C1(CC1)C1=CC=C(C=C1)C(O)C1=C(C=NC=C1)OCOCC[Si](C)(C)C | C21H29NO3Si
